US06051712
A solution of 351 mg (1.37 mmol) of (3RS,4RS)-4-(4-bromo-phenyl)-piperidin-3-ol in 12 ml of dimethylformamide was treated with 139 mg (1.37 mmol) of triethylamine and 300 mg (1.37 mg) of di-tert-butyl dicarbonate and the mixture was stirred at room temperature for 15 hours. Subsequently, the dimethylformamide was distilled off in an oil pump vacuum and the residue was crystallized from a 1:1 mixture of ether and hexane. There were obtained 318 mg (65% of theory) of tert-butyl (3RS,4RS)-4-(4-bromo-phenyl)-3-hydroxy-piperidine-1-carboxylate as a colourless solid ; MS: 299, 301 (M-C4H8)+. Chromatography of the mother liquor on silica gel using a 98:2 mixture of methylene chloride and methanol as the eluent yielded a further 96 mg (19% of theory) of the product.

reactant | (3RS,4RS)-4-(4-bromo-phenyl)-piperidin-3-ol | 1.37 mmol, 351 mg | BrC1=CC=C(C=C1)C1C(CNCC1)O | C11H14BrNO
reactant | triethylamine | 1.37 mmol, 139 mg | C(C)N(CC)CC | C6H15N
reactant | di-tert-butyl dicarbonate | 300 mg | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
solvent | dimethylformamide | 12 ml | CN(C=O)C | C3H7NO
product | tert-butyl (3RS,4RS)-4-(4-bromo-phenyl)-3-hydroxy-piperidine-1-carboxylate | 318 mg, 65% | BrC1=CC=C(C=C1)C1C(CN(CC1)C(=O)OC(C)(C)C)O | C16H22BrNO3
